US09102614B2
Preparation of (1-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)allyloxy)(tert-butyl)dimethylsilane:
To a stirring 23° C. DCM solution (32 mL) of 1-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)prop-2-en-1-ol (1.47 g, 3.79 mmol) and triethylamine (2.3 mL, 16.5 mmol) was added TBDMS-OTf (2.0 mL, 11.65 mmol) and the reaction was stirred and monitored by TLC. After 45 minutes, an additional 2 mL of TBDMSOTf was added and the mixture allowed to stir overnight. The dark mixture was then quenched 10% NaHCO3 and the color dissipated. The mixture was washed with brine, dried with sodium sulfate and concentrated in vacuo. Column chromatography using silica gel with EtOAc in hexanes gave desired silylated product (1.60 g, 84% yield). 1H-NMR: (400 MHz, CDCl3): δ 8.39 (d, J=8.4 Hz, 1H); 7.55-745 (m, 3H); 7.34-7.30 m, 1H); 7.26-7.24 (m, 1H); 7.24-7.18 (d, J=8.0 Hz, 1H); 7.16-7.14 (m, 1H); 6.09-6.01 (m, 1H); 5.32-5.30 (m, 1H); 5.13-5.03 (m, 2H); 2.77 (s, 3H); 0.87 (s, 6H); 0.83 (s, 9H).

reactant | 1-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)prop-2-en-1-ol | 3.79 mmol, 1.47 g | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C=C)O)C | C20H16BrClO
reactant | triethylamine | 16.5 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | TBDMS-OTf | 11.65 mmol, 2.0 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | TBDMSOTf | 2 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
product | (1-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)allyloxy)(tert-butyl)dimethylsilane | 1.60 g, 84% yield | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C=C)O[Si](C)(C)C(C)(C)C)C | C26H30BrClOSi
